US05525603
FT, ClDU and potassium oxonate were suspended at concentrations of 2.0 mg/ml, 0.73 mg/ml and 1.95 mg/ml, respectively, in a 1% solution of hydroxypropylmethylcellulose. The suspension was stirred by a stirrer at room temperature for about 20 minutes and subjected to ultrasonic treatment with ice-cooling for 5 minutes, giving a FT-ClDU-potassium oxonate mixed suspension (test suspension (4)). Test suspensions (5) and (6) were prepared by adding a 1% solution of hydroxypropylmethylcellulose to test suspension (4) to give FT concentrations of 1.0 and 0.5 mg/ml, respectively.

reactant | ClDU | C1[C@@H]([C@H](O[C@H]1N2C=C(C(=O)NC2=O)Cl)CO)O | C9H11ClN2O5
reactant | potassium oxonate | C1(=NC(=O)NC(=O)N1)C(=O)[O-].[K+]
product | ClDU potassium oxonate | C1[C@@H]([C@H](O[C@H]1N2C=C(C(=O)NC2=O)Cl)CO)O.C1(=NC(=O)NC(=O)N1)C(=O)[O-].[K+] | InChI=1S/C9H11ClN2O5.C4H3N3O4.K/c10-4-2-12(9(16)11-8(4)15)7-1-5(14)6(3-13)17-7;8-2(9)1-5-3(10)7-4(11)6-1;/h2,5-7,13-14H,1,3H2,(H,11,15,16);(H,8,9)(H2,5,6,7,10,11);/q;;+1/p-1/t5-,6+,7+;;/m0../s1
